US08557983B2
(4,4-diethoxycyclohexyl)methanol
Ethyl 4,4-diethoxycyclohexanecarboxylate (6.67 g) synthesized according to a literature procedure (Eur J Org Chem, 2008, 5, 895) in tetrahydrofuran (60 mL) was treated with 2 M lithium aluminum hydride in tetrahydrofuran (14.5 mL) at 0° C. for 1 hour. Water (3 mL) was slowly added to quench the reaction. The precipitates were filtered off and washed with ethyl acetate. The filtrate was dried over Na2SO4, filtered, and concentrated to provide the title compound.

reactant | Ethyl 4,4-diethoxycyclohexanecarboxylate | 6.67 g | C(C)OC1(CCC(CC1)C(=O)OCC)OCC | C13H24O4
reactant | lithium aluminum hydride | 2 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 3 mL | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14.5 mL | O1CCCC1 | C4H8O
product | (4,4-diethoxycyclohexyl)methanol | C(C)OC1(CCC(CC1)CO)OCC | C11H22O3
